US03965127
1-(1,3-Dimethylureido)-2-ethylhexylphosphonic acid ##EQU11##
A mixture of 88.1g (1.0 mole of 1,3-dimethylurea, 269.5g (1.0 mole) of tris(2-chloroethyl) phosphite, and 135g (1.05 moles) of 2-ethylhexaldehyde is warmed at 105°-110° for 2 hr, giving a clear colorless solution containing 2-(2-chloroethoxy)-1,4-dimethyl 3-(3-heptyl)-1,4,2-diazaphospholidin-5-one-2-oxide, as an intermediate ester product, 31P nmr 31 30.8. Four-fifths of the reaction mixture is dissolved in 200ml of cyclohexane containing 34.5g of H2O, and the mixture is warmed at 82° for 0.5 hr. Filtration after cooling, and extraction of the solid with hot acetonitrile gives 54.7g of white solid (100.8g more separates from the filtrate while standing): mp 184°-186° dec; 31P nmr (CD3SOCD3) -23.5 ppm(m); 1H nmr δ9.8 (broad, 2, OH), 4,4 (d of d, 1, J = 10 and 20Hz, PCH), 2.7 (s, 3, NCH3), 2.5 (s, 3, NCH3), 0.5 - 2.0 (broad, 15, hexyl); acidity 1.985 equiv/mole, pK1 = 1.76, pK2 = 5.29.

reactant | 1,3-dimethylurea | 1.0 mole | CNC(=O)NC | C3H8N2O
reactant | tris(2-chloroethyl) phosphite | P(OCCCl)(OCCCl)OCCCl | C6H12Cl3O3P
reactant | 2-ethylhexaldehyde | C(C)C(C=O)CCCC | C8H16O
reactant | 2-(2-chloroethoxy)-1,4-dimethyl 3-(3-heptyl)-1,4,2-diazaphospholidin-5-one-2-oxide | ClCCOP1(N(C(N(C1C(CC)CCCC)C)=O)C)=O | C13H26ClN2O3P
solvent | cyclohexane | 200ml, 34.5g | C1CCCCC1 | C6H12
solvent | H2O | O | H2O
product | 1-(1,3-Dimethylureido)-2-ethylhexylphosphonic acid | 54.7g | CN(C(=O)NC)C(C(CCCC)CC)P(O)(O)=O | C11H25N2O4P
